US07728009B1
Step 1. Preparation of 1-ethyl-2-naphthalen-1-yl-1H-imidazole-4-carboxylic acid
1-Ethyl-2-naphthalen-1-yl-1H-imidazole-4-carboxylic acid ethyl ester (2.2 g, 7.48 mmol) is dissolved in THF (20 ml), followed by the addition of aqueous lithium hydroxide solution (2.0 N, 7.5 ml, 2.0 eq.). The mixture is heated at 50° C. overnight. THF is stripped off under reduced pressure, and the residue is diluted with water (10 ml), basified to pH=4˜5. The solid precipitate is collected, washed with water and ether, dried under high vacuum to give the title compound. LCMS 267 (M+1).

reactant | 1-Ethyl-2-naphthalen-1-yl-1H-imidazole-4-carboxylic acid ethyl ester | 7.48 mmol, 2.2 g | C(C)OC(=O)C=1N=C(N(C1)CC)C1=CC=CC2=CC=CC=C12 | C18H18N2O2
reactant | lithium hydroxide | 2.0 N, 7.5 ml, 2.0 eq. | [OH-].[Li+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 1-ethyl-2-naphthalen-1-yl-1H-imidazole-4-carboxylic acid | C(C)N1C(=NC(=C1)C(=O)O)C1=CC=CC2=CC=CC=C12 | C16H14N2O2
